US05643932
5-Ethoxycarbonyl-2-(α-bromoacetyl)pyrimidine and 3,4-diethoxythiobenzamide were subjected to the same reaction as in Example 1 and then to the same hydrolysis as in Example 147 to obtain 2-(3,4-diethoxyphenyl)-4-(5-carboxy-2-pyrimidyl)thiazole.

reactant | 5-Ethoxycarbonyl-2-(α-bromoacetyl)pyrimidine | C(C)OC(=O)C=1C=NC(=NC1)C(CBr)=O | C9H9BrN2O3
reactant | 3,4-diethoxythiobenzamide | C(C)OC=1C=C(C(=S)N)C=CC1OCC | C11H15NO2S
product | 2-(3,4-diethoxyphenyl)-4-(5-carboxy-2-pyrimidyl)thiazole | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=NC=C(C=N1)C(=O)O | C18H17N3O4S
